US05445762
4,13-Bis(3,3-dimethylbutyroyl)-1,7,10,16-tetraoxa-4,13-diazacyclooctadecane
Analogously to Example 2 from 1,7,10,16-tetraoxa-4,13-diazacyclooctadecane and 3,3-dimethylbutyryl chloride.

reactant | 1,7,10,16-tetraoxa-4,13-diazacyclooctadecane | O1CCNCCOCCOCCNCCOCC1 | C12H26N2O4
reactant | 3,3-dimethylbutyryl chloride | CC(CC(=O)Cl)(C)C | C6H11ClO
product | 4,13-Bis(3,3-dimethylbutyroyl)-1,7,10,16-tetraoxa-4,13-diazacyclooctadecane | CC(CC(=O)N1CCOCCOCCN(CCOCCOCC1)C(CC(C)(C)C)=O)(C)C | C24H46N2O6
